US09278973B2
To a solution of 3-o-tolyl-1H-1,2,4-triazol-5-amine (150 mg, 1.0 eq) in n-BuOH (2 ml) was added ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate (240 mg, 1.2 eq) and TsOH (20 mg) and the reaction was stirred for 5 h at 120° C. in an oil bath. The product was collected by filtration and washed with MeOH (3×1 ml) to afford 5-(1H-benzo[d][1,2,3]triazol-6-yl)-2-o-tolyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one (117.6 mg, 40% yield) as a yellow solid.

reactant | 3-o-tolyl-1H-1,2,4-triazol-5-amine | 150 mg, 1.0 eq | C1(=C(C=CC=C1)C1=NNC(=N1)N)C | C9H10N4
reactant | ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate | 240 mg, 1.2 eq | N1N=NC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C11H11N3O3
reactant | TsOH | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | n-BuOH | 2 ml | CCCCO | C4H10O
product | 5-(1H-benzo[d][1,2,3]triazol-6-yl)-2-o-tolyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 117.6 mg, 40% yield | N1N=NC2=C1C=C(C=C2)C=2NC=1N(C(C2)=O)N=C(N1)C1=C(C=CC=C1)C | C18H13N7O
